US06884802B2
A1. (−)-cis-N-[2-(3,4-Dimethoxyphenyl)cyclohexyl]-quinoline-4-carboxamide
125 g of (+/−)-cis-1,2-dimethoxy-4-(2-nitrocyclohexyl)benzene and 120 g of zinc powder or granules are suspended in 1300 ml of ethanol. 220 ml of acetic acid are added dropwise at boiling heat. The precipitate is filtered off with suction and washed with ethanol, and the filtrate is concentrated under reduced pressure. The residue is taken up in hydrochloric acid and extracted with toluene. The aqueous phase is rendered alkaline using 50% strength sodium hydroxide solution, the precipitate is filtered off with suction and the filtrate is extracted with toluene. The organic phase is dried using sodium sulfate and concentrated. 98 g of the title compound are obtained as a crystallizing oil.

reactant | (+/−)-cis-1,2-dimethoxy-4-(2-nitrocyclohexyl)benzene | 125 g | COC1=C(C=C(C=C1)[C@H]1[C@H](CCCC1)[N+](=O)[O-])OC | C14H19NO4
reactant | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 1300 ml | C(C)O | C2H6O
catalyst | zinc | 120 g | [Zn] | Zn
product | (−)-cis-N-[2-(3,4-Dimethoxyphenyl)cyclohexyl]-quinoline-4-carboxamide | 98 g | COC=1C=C(C=CC1OC)[C@@H]1[C@@H](CCCC1)NC(=O)C1=CC=NC2=CC=CC=C12 | C24H26N2O3
